US07727989B2
b) 4-(1H-Benzimidazol-2-yl)-6-(2-cyclopropylpyrimidin-4-yl)-2H-pyridazin-3-one
27 mg of 6-(2-cyclopropylpyrimidin-4-yl)-2-(2-trimethylsilanylethoxymethyl)-4-[1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-2H-pyridazin-3-one are dissolved in 2.5 ml of 4M hydrochloric acid solution in dioxane and 1 ml of ethanol and stirred at room temperature for 2 days. The solvent is then distilled off, and the residue is dissolved in 2 ml of dichloromethane and 1 ml of trifluoroacetic acid and again stirred at room temperature for 3 h. Distillation off is then repeated, and the residue is dissolved in 1 ml of 2M sodium hydroxide solution and 2 ml of water, and the mixture is stirred at room temperature for 10 h. For workup, it is neutralized with 2M hydrochloric acid, the volatile components are distilled off, and the crude product is purified by RP HPLC (acetonitrile (+0.05% HCOOH)/water (+0.05% HCOOH)).

reactant | 6-(2-cyclopropylpyrimidin-4-yl)-2-(2-trimethylsilanylethoxymethyl)-4-[1-(2-trimethylsilanylethoxymethyl)-1H-benzimidazol-2-yl]-2H-pyridazin-3-one | 27 mg | C1(CC1)C1=NC=CC(=N1)C=1C=C(C(N(N1)COCC[Si](C)(C)C)=O)C1=NC2=C(N1COCC[Si](C)(C)C)C=CC=C2 | C30H42N6O3Si2
reactant | ethanol | 1 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 4M, 2.5 ml | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(1H-Benzimidazol-2-yl)-6-(2-cyclopropylpyrimidin-4-yl)-2H-pyridazin-3-one | N1C(=NC2=C1C=CC=C2)C=2C(NN=C(C2)C2=NC(=NC=C2)C2CC2)=O | C18H14N6O
